US05039806
Preparation of 4,6-dimethyl-5-methoxy-2-[[(3,4-dimethyl-2-pyridinyl)methyl]thio]-1H-benzimidazole
To 4,6-dimethyl-5-methoxy-2-mercapto-1H-benzimidazole (1.04 g, 0.0050 mol) in methanol (50 ml) were added (in the following order) NaOH (0.2 g, 0.0050 mol) dissolved in water (2 ml) and 3,4-dimethyl-2-chloromethylpyridine hydrochloride (0.96 g, 0.0050 mol). The mixture was heated until reflux. NaOH (0.2 g, 0.0050 mol) dissolved in water (2 ml) was added dropwise and then the reflux was continued for 3 hours. The mixture was poured on ice-water (200 ml). Filtration and recrystallization from CH3CN gave the desired product (1.1 g, 67%). NMR data for the final product is given below.

reactant | 4,6-dimethyl-5-methoxy-2-mercapto-1H-benzimidazole | 0.0050 mol, 1.04 g | CC1=C(C(=CC=2NC(=NC21)S)C)OC | C10H12N2OS
reactant | NaOH | 0.0050 mol, 0.2 g | [OH-].[Na+]
reactant | 3,4-dimethyl-2-chloromethylpyridine hydrochloride | 0.0050 mol, 0.96 g | Cl.CC=1C(=NC=CC1C)CCl
reactant | NaOH | 0.0050 mol, 0.2 g | [OH-].[Na+]
solvent | methanol | 50 ml | CO | CH4O
solvent | water | 2 ml | O | H2O
solvent | water | 2 ml | O | H2O
product | 4,6-dimethyl-5-methoxy-2-[[(3,4-dimethyl-2-pyridinyl)methyl]thio]-1H-benzimidazole | 1.1 g, 67% | CC1=C(C(=CC=2NC(=NC21)SCC2=NC=CC(=C2C)C)C)OC | C18H21N3OS
